US08486967B2
a) (3S,5R)-3,5-Dimethyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester
A suspension of (3R,5S)-1-benzyl-3,5-dimethylpiperidin-4-one (prepared according to A. A. Calabrese et al., US20050176772, preparation 12-14) (2.08 g, 9.57 mmol), di-tert-butyl dicarbonate (2.3 g, 2.42 mL, 10.5 mmol) and palladium on carbon (10%) (306 mg, 287 μmol) in ethanol (47.5 mL) was hydrogenated at room temperature for 12 hours. The catalyst was filtered off, washed thoroughly with MeOH and the solvents were evaporated to yield the title compound as white solid (2.38 g). MS ISP (m/e): 172.2 (100) [(M−tBu)+].

reactant | (3R,5S)-1-benzyl-3,5-dimethylpiperidin-4-one | C(C1=CC=CC=C1)N1C[C@H](C([C@H](C1)C)=O)C | C14H19NO
reactant | di-tert-butyl dicarbonate | 10.5 mmol, 2.42 mL, 2.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | palladium on carbon | 287 μmol, 306 mg | [Pd] | Pd
solvent | ethanol | 47.5 mL | C(C)O | C2H6O
product | (3S,5R)-3,5-Dimethyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 2.38 g | C(C)(C)(C)OC(=O)N1C[C@@H](C([C@@H](C1)C)=O)C | C12H21NO3
